US06872718B1
2,3-Dihydro-2,2,4,7-tetramethyl-1H-indol-5-ol
To a solution of 2,3-dihydro-2,2,4,7-tetramethyl-5H-indol-5-one (7.36 g, 38.9 mmol) in ethyl acetate (100 ml) was added a solution of sodium hydrosulfite (14.9 g, 85.6 mmol) in water (50 ml) and shaken. The aqueous layer was separated, and the organic layer was washed with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from ethanol-hexane to obtain 6.17 g of the title compound.

reactant | 2,3-dihydro-2,2,4,7-tetramethyl-5H-indol-5-one | 38.9 mmol, 7.36 g | CC1(N=C2C(=CC(C(=C2C1)C)=O)C)C | C12H15NO
reactant | sodium hydrosulfite | 85.6 mmol, 14.9 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2,3-Dihydro-2,2,4,7-tetramethyl-1H-indol-5-ol | 6.17 g, Yield: 83% | CC1(NC2=C(C=C(C(=C2C1)C)O)C)C | C12H17NO
